US04241073
3-n-Butyl-5-(2,4,5-trimethoxybenzyl) hydantoin
3-n-Butyl-5-(2,4,5-trimethoxybenzylidene) hydantoin (10.0 g; 0.03 mole) was mixed with glacial acetic acid (150 ml.) and hydrogenated in a Parr apparatus in the presence of 5% Pd/C (2 g). After 2 hours the catalyst was filtered off, washed with warm acetic acid and the colourless filtrate evaporated in vacuo to give a white crystalline solid. Recrystallisation from ethyl acetate gave the title compound, yield 9.2 g (91%), m.p. 122° C.

reactant | 3-n-Butyl-5-(2,4,5-trimethoxybenzylidene) hydantoin | 0.03 mole, 10.0 g | C(CCC)N1C(NC(C1=O)=CC1=C(C=C(C(=C1)OC)OC)OC)=O | C17H22N2O5
catalyst | Pd/C | 2 g | [Pd] | Pd
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 3-n-Butyl-5-(2,4,5-trimethoxybenzyl) hydantoin | C(CCC)N1C(NC(C1=O)CC1=C(C=C(C(=C1)OC)OC)OC)=O | C17H24N2O5
